US09334245B2
V. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid butyryloxymethyl ester (R4=H; R7=—CH2OC(O)(CH2)2CH3)
1,2,3-Triazole-4-carboxylic acid (14 mg, 124 μmol), DIPEA (86.3 μL, 496 μmol) and HATU (47.1 mg, 124 μmol) were combined in DMF (0.2 mL) and stirred for 5 minutes at room temperature. This was then combined with (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid butyryloxymethyl ester (51 mg, 120 μmol). The resulting mixture was stirred for 15 minutes and the reaction was quenched with AcOH. The product purified by preparative HPLC and lyophilized to yield the title compound (1 mg; purity 95%). MS m/z [M+H]+ calc'd for C27H32N4O6, 509.23. found 509.4.

reactant | 1,2,3-Triazole-4-carboxylic acid | 124 μmol, 14 mg | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | DIPEA | 496 μmol, 86.3 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 124 μmol, 47.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid butyryloxymethyl ester | 120 μmol, 51 mg | C(CCC)(=O)OCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C24H31NO5
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid butyryloxymethyl ester | 1 mg | C(CCC)(=O)OCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C27H32N4O6
